US06498258B2
To 6.8 g of 3-acetyl-N,N-dibenzyl-3-aminomethyltetrahydrofuran-2-one, 33.8 g of diethyl ether and 0.68 g of cetyldimethylbenzylammonium chloride were added, followed by dropwise addition of 8 g of 10% by weight NaOH aqueous solution at 0° C. The resulting diethyl ether layer was separated, was concentrated under reduced pressure, the residue was subjected to column chromatography on a silica gel, was eluted with hexane-ethyl acetate and thereby yielded 3.45 g of N,N-dibenzyl-3-aminomethyltetrahydrofuran-2-one as a light yellow liquid.

reactant | 3-acetyl-N,N-dibenzyl-3-aminomethyltetrahydrofuran-2-one | 6.8 g | C(C)(=O)C1(C(OCC1)=O)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23NO3
reactant | NaOH | [OH-].[Na+]
catalyst | cetyldimethylbenzylammonium chloride | 0.68 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](CC1=CC=CC=C1)(C)C
solvent | diethyl ether | 33.8 g | C(C)OCC | C4H10O
product | N,N-dibenzyl-3-aminomethyltetrahydrofuran-2-one | 3.45 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC1C(OCC1)=O | C19H21NO2
